US09079861B2
To a solution of (4S)-1-((S)-1-(4-bromophenyl)ethyl)-4-((2-methyloxiran-2-yl)methyl)-4-phenyltetrahydropyrimidin-2(1H)-one (0.61 g, 1.42 mmol) in anhydrous tetrahydrofuran (5 mL) was added to Super Hydride (2.56 mL, 2.56 mmol) at 0-5° C. The addition is exothermic and addition was controlled to maintain Tint=<8° C. The mixture was stirred for 2 h at 0-5° C. and allowed to warm to 10-15 0° C. over 3 h. A solution of hydrogen peroxide (5 mL of a 30 wt % aqueous solution diluted with 50 mL of water) was added. The temperature was controlled to maintain Tint=<25° C. The resulting solution was diluted with methyl tert-butyl ether (MTBE) (200 mL) and washed with water (200 mL) followed by 30 wt % aq solution of sodium thiosulfate (300 mL). The organic solution was dried over Na2SO4, filtered and then concentrated to dryness. The residue was purified by column to afford (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyltetrahydropyrimidin-2(1H)-one (0.5 g, Yield: 82%). 1H NMR (MeOD): 0.58 (s, 3H), 1.17 (s, 3H), 1.44-1.46 (d, 3H), 1.90-1.94 (m, 2H), 2.05-2.08 (m, 1H), 2.16-2.18 (m, 1H), 2.24-2.27 (m, 1H), 2.83-2.86 (m, 1H), 5.65-5.67 (m, 1H), 7.04-7.06 (m, 2H), 7.22-7.23 (m, 1H), 7.27-7.33 (m, 6H). LC-MS Method 2 tR=1.296 min, m/z=433.

reactant | (4S)-1-((S)-1-(4-bromophenyl)ethyl)-4-((2-methyloxiran-2-yl)methyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 1.42 mmol, 0.61 g | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=CC=C1)CC1(OC1)C)=O | C22H25BrN2O2
reactant | Super Hydride | 2.56 mmol, 2.56 mL | [Li+].[B-](CC)(CC)CC
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | methyl tert-butyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
product | (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyltetrahydropyrimidin-2(1H)-one | 0.5 g, Yield: 82% | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H27BrN2O2
